US05714438
2,2,6,6-Tetramethylpiperidine (2.7 ml, 2.25 g, 16.0 mmol) was added to a solution of n-butyl lithium (n-BuLi) (10 ml, 16.0 mmol, 1.6M in hexanes) in tetrahydrofuran (THF) (100 ml) at -78° C. The solution was allowed to warm to 0° C. and stirred for 45 minutes, cooled to -78° C. and 2-chloro-4-methoxypyrimidine (726 mg, 5.04 mmol) in THF (20 ml) was added dropwise. The solution was then stirred for 1 hour. Then, ethyl formate (0.50 ml, 0.46 g, 6.2 mmol) in THF (20 ml) was added dropwise and the solution was stirred for 1.5 hours. The reaction mixture was quenched with acetic acid (HOAc) (conc.) at -78° C., diluted with water and extracted with ethyl acetate (EtOAc) (3 times). The combined extracts were washed with saturated brine, dried (MgSO4), filtered and concentrated in vacuo to give 1.06 g of crude material. Preparative radial chromatography (SiO2 ; hexane/EtOAc gradient elution) afforded 420 mg (48%) of 2-chloro-4-methoxypyrimidine-5-carboxaldehyde.

reactant | 2,2,6,6-Tetramethylpiperidine | 16.0 mmol, 2.7 ml, 2.25 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-butyl lithium | 16.0 mmol, 1.6M, 10 ml | C(CCC)[Li]
reactant | 2-chloro-4-methoxypyrimidine | 5.04 mmol, 726 mg | ClC1=NC=CC(=N1)OC | C5H5ClN2O
reactant | ethyl formate | 6.2 mmol, 0.50 ml, 0.46 g | C(=O)OCC | C3H6O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | THF | 20 ml | O1CCCC1 | C4H8O
solvent | THF | 20 ml | O1CCCC1 | C4H8O
product | 2-chloro-4-methoxypyrimidine-5-carboxaldehyde | 420 mg, 48% | ClC1=NC=C(C(=N1)OC)C=O | C6H5ClN2O2
